US05219886
4-[2(S)-ACETYLTHIOMETHYL-3-(2-METHYLPHENYL)PROPIONYLAMINO]-2-(S)-HYDROXYBUTYRIC ACID ETHYL ESTER
Using a procedure similar to that described in Example 3, combine 2(S)-acetylthiomethyl-3-(2-methylphenyl)propionic acid (1.18 g), the product of Preparation 9 (0.85 g), EDC (1.09 g), HOBT (0.72 g) and N-methylmorpholine (0.52 ml) in DMF (20 ml). Chromatograph the residue on silica gel using hexane:ethyl acetate 3:2 as eluant to obtain the title compound as a white solid, m.p. 48°-52° C., [α]D26 =-25.9° (MeOH).

reactant | 2(S)-acetylthiomethyl-3-(2-methylphenyl)propionic acid | 1.18 g | C(C)(=O)SC[C@H](C(=O)O)CC1=C(C=CC=C1)C | C13H16O3S
reactant | EDC | 1.09 g
reactant | HOBT | 0.72 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-methylmorpholine | 0.52 ml | CN1CCOCC1 | C5H11NO
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
product | 4-[2(S)-ACETYLTHIOMETHYL-3-(2-METHYLPHENYL)PROPIONYLAMINO]-2-(S)-HYDROXYBUTYRIC ACID ETHYL ESTER | C(C)OC([C@H](CCNC([C@H](CC1=C(C=CC=C1)C)CSC(C)=O)=O)O)=O | C19H27NO5S
